US08003796B2
Preparation of 2-fluoro-4-propylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
Example 149 was prepared according to procedures described in Example 148 substituting 4-bromo-2-fluorophenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate for 4-bromo-2-methylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate at Step A. 1H NMR (500 MHz, CDCl3) δ 8.09 (d, J=8.80 Hz, 2H), 7.62 (d, J=8.25 Hz, 2H), 7.32 (d, J=7.70 Hz, 1H), 7.07 (t, J=8.25 Hz, 1H), 6.91-7.00 (m, 2H), 6.31 (d, J=2.47 Hz, 2H), 6.22 (dd, J=7.70, 2.20 Hz, 1H), 4.60-4.72 (m, 1 H), 3.88-3.99 (m, 1H), 3.83 (app brs, 1H), 3.68 (app brs, 1H), 3.57 (app brs, 1H), 3.11 (s, 3H), 2.50-2.61 (m, 2H), 2.11 (app brs, 2H), 1.94 (app brs, 2H), 1.57-1.69 (m, 2H), 0.94 (t, J=7.15 Hz, 3H). MS (EST) 529 (M+H).

reactant | 4-bromo-2-fluorophenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC1=C(C=C(C=C1)Br)F)=O | C24H22BrFN2O6S
reactant | 4-bromo-2-methylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC1=C(C=C(C=C1)Br)C)=O | C25H25BrN2O6S
product | 2-fluoro-4-propylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC1=C(C=C(C=C1)CCC)F)=O | C27H29FN2O6S
